US05206257
2-(2,6-Dichloro-4-trifluoromethylphenyl)-4-methylimidazole (1.0 g, 0.0034 mol) was added portionwise to chlorosulphonic acid (3 ml) and the mixture was stirred and heated at 100° C. for 2 hours. After cooling thionyl chloride (0.2 ml) was added and the mixture was reheated to 100° C. for 2 hours. The mixture was added cautiously to ice (20 g), and extracted with ethyl acetate (2×20 ml). The combined extracts were washed with water (20 ml) dried over anhydrous sodium sulphate and evaporated to dryness. Recystallisation from a mixture of ethyl acetate and petroleum spirit (bp 60°-80° C.)(1:3) gave 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylimidazole-5-sulphonyl chloride (0.21 g), m.p. 227°-230° C. as an off-white solid.

reactant | 2-(2,6-Dichloro-4-trifluoromethylphenyl)-4-methylimidazole | 0.0034 mol, 1.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC=C(N1)C | C11H7Cl2F3N2
reactant | chlorosulphonic acid | 3 ml | ClS(=O)(=O)O | ClHO3S
reactant | thionyl chloride | 0.2 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylimidazole-5-sulphonyl chloride | 0.21 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C)S(=O)(=O)Cl | C11H6Cl3F3N2O2S
